US07531532B2
N-[4-(2-Aminopyridin-4-yloxy)-2-methylphenyl]-N′-(4-fluorophenyl)malonamide
To a solution of 4-(4-amino-3-methylphenoxy)pyridin-2-ylamine (765 mg, 3.55 mmol) in N,N-dimethylformamide (15.0 ml) were added N-(4-fluorophenyl)malonic acid (770 mg, 3.91 mmol), triethylamine (0.544 ml, 3.91 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.73 g, 3.91 mmol), followed by stirring at room temperature for 13 hrs. The reaction mixture was partitioned between ethyl acetate (200 ml) and a saturated aqueous solution of sodium hydrogencarbonate (80 ml). The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then subjected to silica gel column chromatography (ethyl acetate, then ethyl acetate/methanol=20/1 to 10/1). To the resultant crude product were added ethanol (0.5 ml) and diethyl ether (10 ml) to suspend. A solid was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (805 mg, 57.5%) as pale yellow powder.

reactant | 4-(4-amino-3-methylphenoxy)pyridin-2-ylamine | 3.55 mmol, 765 mg | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)C | C12H13N3O
reactant | triethylamine | 3.91 mmol, 0.544 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 3.91 mmol, 1.73 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 15.0 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[4-(2-Aminopyridin-4-yloxy)-2-methylphenyl]-N′-(4-fluorophenyl)malonamide | 805 mg, 57.5% | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)C | C21H19FN4O3
